US07704995B2
3-amino-6-[3-(1H-benzimidazol-2-yl)phenyl]-N-methylpyrazine-2-carboxamide:
A solution of 3-amino-6-(3-formylphenyl)-N-methylpyrazine-2-carboxamide (25.4 mg, 0.1 mmol) and 1,2-phenylendiamine in NMP (3 mL) was heated at 80° C. for 8 h. The solvent was removed and the residue was triturated with 0.1 M aquous hydrochloric acid.

reactant | 3-amino-6-(3-formylphenyl)-N-methylpyrazine-2-carboxamide | 0.1 mmol, 25.4 mg | NC=1C(=NC(=CN1)C1=CC(=CC=C1)C=O)C(=O)NC | C13H12N4O2
reactant | 1,2-phenylendiamine | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
product | 3-amino-6-[3-(1H-benzimidazol-2-yl)phenyl]-N-methylpyrazine-2-carboxamide | NC=1C(=NC(=CN1)C1=CC(=CC=C1)C1=NC2=C(N1)C=CC=C2)C(=O)NC | C19H16N6O
